* C:\RobotCasserole\RoboSim\PSPICE\RoboSim PWM Input Filter V2.asc
XU1 N004 N001 Vcc Vdd N003 LT1006
Rin- N001 N002 10K
Rin+ N004 N005 10K
Rfb N003 N001 2K
Rgnd N004 0 2K
V§PWMin N002 N005 PWL(0 0 0.05 12 0.1 -12 0.15 0)
V§MainSupply Vcc 0 5
V§OffsetSupply Voff 0 5
V§MainSupply1 Vdd 0 0
C2 N003 0 5µF
Roff1 N004 Voff 1K
Roff2 N001 Voff 4.7K
.tran 0.2
.lib LTC.lib
.backanno
.end
